US06525000B1
c2) Tetrahydro-N-(2,4-dichloro-5-methoxyphenyl)-4H-1,3,4-oxa-diazine-4-carboxamide (Alternative to c1)
A mixture of 29.4 g (0.1 mol) of N-amino-N-2-hydroxyethyl-N′-(2,4-dichloro-5-methoxyphenyl)urea and 9 g (0.11 mol) of a 37% strength formaldehyde solution in 500 ml of methylene chloride was stirred at 42° C. for 2 h. After cooling, the reaction mixture was filtered with suction with about 300 ml of silica gel and washed with methylene chloride. Analysis by thin-layer chromatography gave a higher Rf value than that of the reaction mixture which had not been treated with silica gel and remained on the methyleneimino stage. Concentration under reduced pressure gave 27.8 g (81.8% of theory) of the title compound of m.p. 128-130° C.

reactant | N-amino-N-2-hydroxyethyl-N′-(2,4-dichloro-5-methoxyphenyl)urea | 0.1 mol, 29.4 g | NN(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)CCO | C10H13Cl2N3O3
reactant | formaldehyde | C=O | CH2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Tetrahydro-N-(2,4-dichloro-5-methoxyphenyl)-4H-1,3,4-oxa-diazine-4-carboxamide | ClC1=C(C=C(C(=C1)Cl)OC)NC(=O)N1NCOCC1 | C11H13Cl2N3O3
